US07557103B2
D. 3-Iodo-2,6-dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine
In an oven dried nitrogen purged 25 mL round bottom flask, 0.088 g (0.359 mmol) of 2,6-Dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine, in 5 mL of dry acetonitrile is cooled to 0 C. 0.0.81 g (0.359 mmol) of NIS is added and the bath is allowed to expire. TLC in 1:1 Hexanes:Ethyl Acetate indicates SM is gone. Remove solvents to obtain 0.133 g of the title compound, quantitative yield. MS; 1H NMR (DMSO-d6)=6.985 (s, 1H); 3.262-3.190 (m, 1H); 2.502 (s, 3H); 2.480 (s, 3H); 1.823-1.600 (m, 4H); 1.182-0.985 (m, 4H); 0.804-0.768 (m, 6H) ppm.

reactant | 2,6-Dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine | 0.359 mmol, 0.088 g | CC=1N=C2N(N=C(C=C2C(CCC)CCC)C)C1 | C15H23N3
reactant | NIS | 0.359 mmol | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | Ethyl Acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-Iodo-2,6-dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine | 0.133 g, quantitative yield | IC1=C(N=C2N1N=C(C=C2C(CCC)CCC)C)C | C15H22IN3
